US05169916
4-Chloro-1-trichlorosilyl-cis-2-butene
In a 1-L three-neck round-bottom flask equipped with an efficient reflux condenser, a tru-bore mechanical stirrer equipped with a Teflon paddle and a pressure-equalizing addition funnel was placed cuprous chloride (0.65 g, 6.5 mmol), triethylamine (73.9 g, 0.73 mol) and diethyl ether (500 mL). Trichlorosilane (98.2 g, 0.73 mol), 1,4-dichloro-cis-2-butene (80.6 g, 0.65 mol) and diethyl ether (60 mL) were placed in the addition funnel. This solution was added to the vigorously stirred greenish suspension of cuprous chloride and triethylamine over a period of 4 h. The reaction mixture was stirred overnight. The triethylammonium hydrochloride salts were removed by filtration under argon. These were washed several times with pentane. The solvents were removed from the combined filtrate by distillation through a 15 cm vacuum-jacketed Vigreux column at atmosphere pressure. The residue was transferred to a 250-mL round-bottom flask. The product was purified by fractional distillation under reduced pressure. A fraction with b.p. 72°-73° C./2.8 mmHg, 78.2 g, 54% yield was isolated. It had the following spectral properties.

reactant | diethyl ether | 500 mL | C(C)OCC | C4H10O
reactant | Trichlorosilane | 0.73 mol, 98.2 g | Cl[SiH](Cl)Cl | Cl3HSi
reactant | 1,4-dichloro-cis-2-butene | 0.65 mol, 80.6 g | ClC\C=C/CCl | C4H6Cl2
reactant | diethyl ether | 60 mL | C(C)OCC | C4H10O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 0.73 mol, 73.9 g | C(C)N(CC)CC | C6H15N
product | 4-Chloro-1-trichlorosilyl-cis-2-butene | 54% yield | ClC\C=C/C[Si](Cl)(Cl)Cl | C4H6Cl4Si
